US06432955B1
89b. 1-Amino-6-[(2-(3-(cyclohexylmethylsulfonylamino)-6-methyl-2-oxo-1,2-dihydropyridinyl)-1-oxo-ethyl)aminomethyl]isoquinoline hydrochloride
To a stirred solution of 0.14 g of [3-(cyclohexylmethylsulfonylamino)-6-methyl-2-oxo-1,2-dihydropyridinyl]-acetic acid and 0.07 g of 1-amino-6-(aminomethyl)isoquinoline in 5 mL dichloromethane and 2 mL N,N-dimethylformamide was added 0.19 g 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU). After 16 h at room temperature additional 50 mg TBTU and 0.10 mL N-methylmorpholine were added and the mixture was stirred at room temperature for an additional 16 h. Dichloromethane was added and the reaction mixture was washed with aqueous saturated sodium hydrogencarbonate and water. Both aqueous washes were extracted three times with dichloromethane. The combined organic phases were dried over sodium sulphate and concentrated. The residue was purified by chromatography on silica gel (eluent: dichloromethane/methanol=9/1 v/v) to yield the free base. This free base was dissolved in a mixture of t-butanol/water=1/1 (v/v) and one equivalent hydrochloric acid was added. Lyophilisation yielded 135 mg of the title compound. MS ESI+: 498 (M+H).

reactant | [3-(cyclohexylmethylsulfonylamino)-6-methyl-2-oxo-1,2-dihydropyridinyl]-acetic acid | 0.14 g | C1(CCCCC1)CS(=O)(=O)NC=1C(N(C(=CC1)C)CC(=O)O)=O | C15H22N2O5S
reactant | 1-amino-6-(aminomethyl)isoquinoline | 0.07 g | NC1=NC=CC2=CC(=CC=C12)CN | C10H11N3
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.19 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | TBTU | 50 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-methylmorpholine | 0.10 mL | CN1CCOCC1 | C5H11NO
reactant | hydrochloric acid | one equivalent | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | t-butanol water | C(C)(C)(C)O.O
product | 1-Amino-6-[(2-(3-(cyclohexylmethylsulfonylamino)-6-methyl-2-oxo-1,2-dihydropyridinyl)-1-oxo-ethyl)aminomethyl]isoquinoline hydrochloride | 135 mg | Cl.NC1=NC=CC2=CC(=CC=C12)CNC(CN1C(C(=CC=C1C)NS(=O)(=O)CC1CCCCC1)=O)=O | InChI=1S/C25H31N5O4S.ClH/c1-17-7-10-22(29-35(33,34)16-18-5-3-2-4-6-18)25(32)30(17)15-23(31)28-14-19-8-9-21-20(13-19)11-12-27-24(21)26;/h7-13,18,29H,2-6,14-16H2,1H3,(H2,26,27)(H,28,31);1H
